US05686455
(c) 4-[(Methanesulfonamido)methyl]benzaldehyde
To a solution of 4-[(methanesulfonamido)methyl]benzyl alcohol (1.0 g, 4.6 mmol) in CH2Cl2 (25 mL) was added pyridinium chlorochromate (1.5 g, 7.0 mmol). The reaction mixture was stirred for 1 h at rt and poured through a pad of silica gel eluting with 2% MeOH/CHCl3. The title compound was isolated as a tan solid (1.0 g, 100%): 1H NMR (CDCl3): δ10.03 (s,1H); 7.88 (d, 2H); 7.57 (d, 2H); 4.79 (br s, 1H); 4.43 (d, 2H); 2.93 (s, 3H).

reactant | 4-[(methanesulfonamido)methyl]benzyl alcohol | 4.6 mmol, 1.0 g | CS(=O)(=O)NCC1=CC=C(CO)C=C1 | C9H13NO3S
reactant | pyridinium chlorochromate | 7.0 mmol, 1.5 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-[(Methanesulfonamido)methyl]benzaldehyde | CS(=O)(=O)NCC1=CC=C(C=O)C=C1 | C9H11NO3S
